US05753664
3,5-Dimethyl-2-[2-[4-(4-hydroxybenzoyl)phenyl]-ethyl]-4(3H)-quinazolinone
To a solution of 2-[2-[4-(4-acetoxybenzoyl)phenyl]vinyl]-3,5-dimethyl-4(3H)-quinazolinone (631 mg) in THF-ethyl acetate-methanol (1:1:1) (50 ml) was added 10% Pd/C (50% hydrous) (126 mg) and the mixture was stirred under hydrogen at room temperature for 2 hours. The catalyst was then filtered off and the filtrate was concentrated. After the residue was suspended in ethanol (10 ml), 1N-aqueous sodium hydroxide solution (2.9 ml) was added and the mixture was stirred at room temperature for 2 hours. This reaction mixture was concentrated and the residue was suspended in water (20 ml) and neutralized with 1N-hydrochloric acid (2.9 ml). The precipitate was collected by filtration, washed with water, and dried to provide 538 mg of white powder.

reactant | 2-[2-[4-(4-acetoxybenzoyl)phenyl]vinyl]-3,5-dimethyl-4(3H)-quinazolinone | 631 mg | C(C)(=O)OC1=CC=C(C(=O)C2=CC=C(C=C2)C=CC2=NC3=CC=CC(=C3C(N2C)=O)C)C=C1 | C27H22N2O4
solvent | THF ethyl acetate methanol | 50 ml | C1CCOC1.C(C)(=O)OCC.CO
catalyst | Pd/C | 126 mg | [Pd] | Pd
product | 3,5-Dimethyl-2-[2-[4-(4-hydroxybenzoyl)phenyl]-ethyl]-4(3H)-quinazolinone | 538 mg | CN1C(=NC2=CC=CC(=C2C1=O)C)CCC1=CC=C(C=C1)C(C1=CC=C(C=C1)O)=O | C25H22N2O3
